Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers, rigors, cough
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a ___ y/o male physician with ___ history of 
hypertension, CKD who is presently a resident of ___, where he 
is the Associate ___ of ___.  He 
returned to ___ on ___ to attend a pediatric anesthesia 
conference.  On ___ he developed fevers and rigors, but he was 
able to keep these undercontrol with anti pyretics, so he 
continued to attend the conference.  By ___, however, he started 
to develop symptoms of a "chest cold" including cough (non 
productive) and hearing "musical rales" when he slept, so he 
went to ___ urgent care on ___ where he was diagnosed with a 
large RLL pneumonia and put on levaquin 750 mg, which he has 
taken two doses.  He feels improved since starting the levaquin, 
but presented to the ED given size of the pneumonia.

He denies n/v/abdominal pain.  One episode of loose stool after 
taking levaquin.  No chest pain or lightheadedness.   Feels 
tired, mostly from sleep deprivation.  
 
Past Medical History:
Wegener's granulomatosis - now in "remission", was on embrel for 
a number of years, then stopped ___ years ago - and no 
recurrence of symptoms
Chronic kidney disease - presumably to Wegener's Granulomatosis 
___ notes show baseline around 1.2 but that was in ___
Hypertension
Hyperlipidemia
Dengue (diagnosed ___ years ago when visiting ___)

 
Social History:
___
Family History:
Mother with esophageal CA, Father with ___ disease. 
 
Physical Exam:
99.8 154/86 HR 82
Gen:  Diaphoretic, fatigued appearing, but lucid and articulate 
historian
No cervical ___:  + Rhonchi right lower ___, ___ way up, dull to 
percussion, no egophany
CV:  RRR
Abd:  Nabs, soft, nt/nd
Ext:  No edema

Exam on discharge:
Vitals: O2: 93%RA HR 74
Gen: NAD, sitting in bed
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
___: RRR, no MRG, full pulses, no edema  
Resp: + decreased breath sounds, RLL. Faint crackles
GI: soft, NT, ND, BS+
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect
GU: No Foley
 
Pertinent Results:
___ 02:40PM BLOOD Neuts-75* Bands-4 ___ Monos-1* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-6.87* AbsLymp-1.74 
AbsMono-0.09* AbsEos-0.00* AbsBaso-0.00*
___ 02:40PM BLOOD Glucose-96 UreaN-19 Creat-1.5* Na-134 
K-4.1 Cl-100 HCO3-23 AnGap-15
___ 02:40PM BLOOD ALT-80* AST-56* LD(LDH)-202 AlkPhos-106 
TotBili-0.3
___ 03:00PM BLOOD Lactate-1.4
___ 02:40PM BLOOD WBC-8.7 RBC-3.68* Hgb-11.9* Hct-35.6* 
MCV-97 MCH-32.3* MCHC-33.4 RDW-13.8 RDWSD-49.6* Plt ___

CXR 
Large area of consolidation involving the majority of the right 
lower lobe, more dense in the superior aspect the right lower 
lobe, worrisome for extensive pneumonia.  No pleural effusion or 
pneumothorax is seen. The cardiac and mediastinal silhouettes 
are unremarkable. 
  
IMPRESSION:  
  
Large right lower lobe pneumonia.  No prior available for 
comparison.  
Recommend followup to resolution. 

Flu negative

MERS:
Per state lab- Negative 

Urine leiogonella antigen- Pending
Strep Pneumo antigen- pending

 
Brief Hospital Course:
Patient is a ___ y/o male resident of ___ with fevers, rigors, 
cough, seen to have a large RLL pneumonia, symptomatically 
improved on levaquin.

# RLL Pneumonia:  History suggestive of CAP, particularly Strep 
Pneumomoniae infection.  However, given residence in ___, 
infectious disease was consulted to help screen patient for 
MERS.  The patient had samples which were sent to the state lab 
and were negative for MERS. ID recommended continuing treatment 
for CAP with Levaquin. Creatinine clearance is on the border of 
Q24 and Q48hr dosing. Patient would prefer Q24hr dosing. He 
should have a repeat CXR in ___ weeks to asses for resolution of 
pneumonia.

#Hypertension
Enalapril was held and resumed on discharge

#Acute on chronic kidney disease 
Ceatinine higher than baseline on admission. Improved with IV 
fluids. Creatine was 1.4 on discharge.

Transitional issues:
- should have repeat CXR in ___ weeks to asses for resolution of 
pneumonia
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fish Oil (Omega 3) Dose is Unknown  PO BID 
2. Levofloxacin 750 mg PO Q24H 
3. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
4. Enalapril Maleate 20 mg PO BID 
5. Cephalexin 500 mg PO Q8H 
6. Vitamin D 1000 UNIT PO DAILY 
7. Mupirocin Ointment 2% 1 Appl TP BID 
8. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Levofloxacin 750 mg PO Q24H 
2. Aspirin 81 mg PO DAILY 
3. Enalapril Maleate 20 mg PO BID 
4. Fish Oil (Omega 3) 1000 mg PO BID 
5. Mupirocin Ointment 2% 1 Appl TP BID 
6. Vitamin D 1000 UNIT PO DAILY 
7. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumonia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with pneumonia and concerns for MERS. You were 
tested for MERS and you were seen by the infectious disease 
service who agreed with treatement for community acquired 
pneumonia. You should continue your antibiotics for 10 days. 
We would recommend you have a  follow up chest xray in ___ weeks 
to make sure your pneumonia has resolved.
 
Followup Instructions:
___